US04833169
12.8 g (50 mmol) of methanesulphonic acid (6-methoxyindan-1-ylmethyl) ester and 3.7 g (75 mmol) of sodium cyanide are dissolved in 70 ml of dimethyl sulphoxide and heated at 80° for 6 hours. The reaction mixture is poured onto 200 ml of ice-water and extracted three times by shaking with 100 ml of toluene each time. The organic phases are combined, subsequently washed with saturated sodium chloride solution and dried over magnesium sulphate. After removing the solvent in vacuo, crude 2-(6-methoxyindan-1-yl)acetonitrile is obtained.

reactant | methanesulphonic acid (6-methoxyindan-1-ylmethyl) ester | 50 mmol, 12.8 g | COC1=CC=C2CCC(C2=C1)COS(=O)(=O)C | C12H16O4S
reactant | sodium cyanide | 75 mmol, 3.7 g | [C-]#N.[Na+]
solvent | dimethyl sulphoxide | 70 ml | CS(=O)C | C2H6OS
product | 2-(6-methoxyindan-1-yl)acetonitrile | COC1=CC=C2CCC(C2=C1)CC#N | C12H13NO
